US09278931B2
A) methyl 3-[benzyl(tert-butoxycarbonyl)amino]benzoate
To a solution of methyl 3-(tert-butoxycarbonylamino)benzoate (1.08 g) described in a document (Bioorg. Med. Chem. 2010, 18, 3175.) in DMF (40 mL) was added sodium hydride (258 mg). The reaction mixture was stirred at room temperature for 15 min, and benzyl bromide (613 μL) was added. The mixture was stirred for 1 hr and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (125 mg).

reactant | methyl 3-(tert-butoxycarbonylamino)benzoate | 1.08 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)OC)C=CC1 | C13H17NO4
reactant | sodium hydride | 258 mg | [H-].[Na+]
reactant | benzyl bromide | 613 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | methyl 3-[benzyl(tert-butoxycarbonyl)amino]benzoate | 125 mg | C(C1=CC=CC=C1)N(C=1C=C(C(=O)OC)C=CC1)C(=O)OC(C)(C)C | C20H23NO4
